US07727985B2
Intermediate 16: N-benzyl-serine Benzyl Ester
To a mixture of L-serine-benzyl ester-HCl (2.3 g), benzaldehyde(1.05 eq.) and sodium acetate (1 eq.) in methanol was added sodium cyanoborohydride (1.0 eq.). The resulting mixture was stirred at ambient temperature for 15 hrs, then partitioned into ether and aqueous saturated sodium bicarbonate. The separated organic phase was extracted with 1M HCl (3×). Combined aqueous extracts were washed with ether, basified with aqueous 4.5M K2CO3 and extracted with ether. Combined organic extracts were washed with brine, dried over sodium sulfate and concentrated to dryness to give 2.32 g of the desired compound (waxy solid, 81% yield).

reactant | L-serine-benzyl ester-HCl | 2.3 g | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CO)=O
reactant | benzaldehyde | 1.05 eq. | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium acetate | 1 eq. | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 1.0 eq. | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | N-benzyl-serine Benzyl Ester | 2.32 g, 81% yield | C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=CC=C1)CO)=O | C17H19NO3
